US08076345B2
5-Trifluoromethyl-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile
A 2 mL microwave vial was charged with N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (40 mg, 0.13 mmol), 2-fluoro-5-(trifluoromethyl)benzonitrile (150 mg, 0.78 mmol), acetonitrile (0.4 mL) and N,N-diisopropylethylamine (68 μL, 0.39 mmol). The mixture was subjected to microwave irradiation at 200° C. for 2 h. The mixture was diluted with chloroform (7 mL), and washed with 0.1 M NaH2PO4 (10 mL), dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column to yield a pale brown solid.

reactant | N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 0.13 mmol, 40 mg | FC(C1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2)(F)F | C14H14F3N5
reactant | 2-fluoro-5-(trifluoromethyl)benzonitrile | 0.78 mmol, 150 mg | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | acetonitrile | 0.4 mL | C(C)#N | C2H3N
reactant | N,N-diisopropylethylamine | 0.39 mmol, 68 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-Trifluoromethyl-2-{4-[(6-trifluoromethyl-pyridin-3-ylmethyl)-amino]-7,8-dihydro-5H-pyrido[4,3-d]pyrimidin-6-yl}-benzonitrile | FC(C=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1)(F)F | C22H16F6N6
